US07495007B2
In a manner similar to the method described in example 190b, 3-iodo-benzaldehyde (0.9 g, 3.88 mmol) (Aldrich) was used as the starting material in place of 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde to react with 1,1,3,3,3-hexamethyldisilazane (0.62 g, 3.88 mmol), n-butyllithium (2.5 M, 1.6 mL, 3.88 mmol), trimethylsilyl chloride (0.42 g, 3.88 mmol), triethylamine (0.53 g, 5.28 mmol) and acetyl chloride (0.41 g, 5.28 mmol) to give 1-(3-iodophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 3-iodo-benzaldehyde | 3.88 mmol, 0.9 g | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)I)(C)C | C15H23IO3Si
reactant | 1,1,3,3,3-hexamethyldisilazane | 3.88 mmol, 0.62 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 3.88 mmol, 2.5 M, 1.6 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 3.88 mmol, 0.42 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 5.28 mmol, 0.53 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 5.28 mmol, 0.41 g | C(C)(=O)Cl | C2H3ClO
product | 1-(3-iodophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | IC=1C=C(C=CC1)C=NC(=C)O[Si](C)(C)C | C12H16INOSi
